US06002008
4Diethylamino-but-2-enoic acid [4(3-bromo-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
To a mixture of 0.77 g (1.98 mmol) of 4-[(3-bromo-4-fluorophenyl)amino]-7-methoxy-6-amino-quinoline-3-carbonitrile and 3.5 ml (20 mmol) of Hunig's base in 35 ml of dry THF at 0° C., with stirring, was added a THF solution containing 2.2 g (12 mmol) of 4-bromo crotonyl chloride dropwise. The mixture was stirred for additional 30 minutes at 0° C. 50 ml of saturated NaCl solution was added to the reaction mixture, then it was extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and then was added to a solution of 3.1 ml (30 mmol) of diethyl amine in 5 ml of THF at 0° C. dropwise. The solution was stirred an additional hour at 0° C. and 30 minutes at room temperature. The mixture was poured into diluted sodium bicarbonate solution. The organic layer was dried over sodium sulfate and solvent was removed under vacuum. The residue was chromatographed to give 0.4 g off-white solid: mass spectrum (electrospray, m/e): M+H 525.9 and 527.9.

reactant | 4-[(3-bromo-4-fluorophenyl)amino]-7-methoxy-6-amino-quinoline-3-carbonitrile | 1.98 mmol, 0.77 g | BrC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)N)OC)C#N | C17H12BrFN4O
reactant | Hunig's base | 20 mmol, 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | 12 mmol, 2.2 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | NaCl | 50 ml | [Na+].[Cl-]
reactant | diethyl amine | 30 mmol, 3.1 ml | C(C)NCC | C4H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4Diethylamino-but-2-enoic acid [4(3-bromo-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.4 g | BrC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(CC)CC)=O)OC)C#N | C25H25BrFN5O2
